US07807712B2
3′-Hydroxy-4-methoxy-chalcone [8]
3-Hydroxy acetophenone, 2 (6.8 g, 50 mmol), 4-methoxy benzaldehyde, 4 (6.0 mL, 50 mmol) and 50% aqueous sodium hydroxide (50 mL) in methanol (110 mL) were reacted as in 7 to yield 8. Yield 12.5 g (98%); mp 93-94° C.; MS (FAB) 255 (M++1); IR (KBr) 3366, 1649; 1H NMR (200 MHz, CDCl3) δ 7.80 (d, J=15.6 Hz, 1H), 7.62 (d, J=7.8 Hz, 1H), 7.58 (d, J=8.7 Hz, 2H), 7.55 (d, J=2.3 Hz, 1H), 7.38 (d, J=15.6 Hz, 1H), 7.36 (t, J=7.8 Hz, 1H), 7.04 (d, J=7.9 Hz, 1H), 6.92 (d, J=8.6 Hz, 2H), 3.85 (s, 3H).

reactant | 3-Hydroxy acetophenone | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | 4-methoxy benzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | methanol | 110 mL | CO | CH4O
product | 3′-Hydroxy-4-methoxy-chalcone | OC=1C=C(C(C=CC2=CC=C(C=C2)OC)=O)C=CC1 | C16H14O3
